US06002008
4-[(3,4-Dibromophenyl)amino]-6-nitro-3-quinolinecarbonitrile
A mixture of 6.20 g (26.6 mmol)of 4-chloro-6-nitro-3-quinolinecarbonitrile and 8.00 g (31.9 mmol) of 3,4-dibromoaniline in 160 mL of ethanol was refluxed under N2 for 5 h. Saturated sodium bicarbonate was added and volatile material was removed. The residue was slurried with hexane, collected, washed with hexane and water and dried. The insoluble material was repeatedly extracted with boiling ethyl acetate and the solution was then filtered through silica gel. The solvent was removed to give 3.80 g of green solid: mass spectrum (electrospray, m/e): M+H 449.

reactant | 4-chloro-6-nitro-3-quinolinecarbonitrile | 26.6 mmol, 6.20 g | ClC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C10H4ClN3O2
reactant | 3,4-dibromoaniline | 31.9 mmol, 8.00 g | BrC=1C=C(N)C=CC1Br | C6H5Br2N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 160 mL | C(C)O | C2H6O
product | 4-[(3,4-Dibromophenyl)amino]-6-nitro-3-quinolinecarbonitrile | 3.80 g | BrC=1C=C(C=CC1Br)NC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C16H8Br2N4O2
